US09317012B2
In a 100 mL three-neck flask, 10.0 g (56.4 mmol) of 2-oxo-2-phenylethyl thiocyanate and 3.73 g (56.4 mmol) of malononitrile were dissolved in 60 mL of ethanol and admixed with 5.14. g (50.8 mmol) of triethylamine in a gradual manner, so the temperature did not climb above 30° C. This was followed by stirring at room temperature for 12 h. The reaction mixture was diluted with 50 mL of water and acidified with glacial acetic acid. The precipitated solid was separated off and washed three times with 10 mL of a 10:10:1 mixture of water:ethanol:glacial acetic acid each time. The solid was dried to obtain 11.1 g (49.1 mmol) of (4-phenyl-1,3-thiazol-2-yl)malononitrile.

reactant | 2-oxo-2-phenylethyl thiocyanate | 56.4 mmol, 10.0 g | O=C(CSC#N)C1=CC=CC=C1 | C9H7NOS
reactant | malononitrile | 56.4 mmol, 3.73 g | C(CC#N)#N | C3H2N2
reactant | triethylamine | 50.8 mmol | C(C)N(CC)CC | C6H15N
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | ethanol | 60 mL | C(C)O | C2H6O
solvent | water | 50 mL | O | H2O
product | (4-phenyl-1,3-thiazol-2-yl)malononitrile | 49.1 mmol, 11.1 g | C1(=CC=CC=C1)C=1N=C(SC1)C(C#N)C#N | C12H7N3S
